US05846982
4-cyclopropylmethyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 4.3 gm (22.9 mMol) 4-cyclopropylmethyloxy-1H-indole and 5.7 mL (45.9 mMol) 1-methyl-4-piperidone, 0.995 gm (33% based on recovered starting material) of the title compound were recovered as a light yellow solid.

reactant | 4-cyclopropylmethyloxy-1H-indole | 22.9 mMol, 4.3 gm | C1(CC1)COC1=C2C=CNC2=CC=C1 | C12H13NO
reactant | 1-methyl-4-piperidone | 45.9 mMol, 5.7 mL | CN1CCC(CC1)=O | C6H11NO
product | 4-cyclopropylmethyloxy-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | C1(CC1)COC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)C | C18H22N2O
